US05631208
To a solution 122.2 g of 2,5-dimethylphenol in 300 ml of acetone was added 83 g of anhydrous potassium carbonate and 150 ml of 3-chloro-2-methylpropene. After refluxing for 65 hours, the reaction mixture was filtered and concentrated under reduced pressure and diluted with 200 ml diethyl ether. The mixture was washed three times with 100 ml of 10% aqueous solution of sodium hydroxide. The combined organic extracts were washed with water, dried over anhydrous magnesium sulfate, filtered and concentrated under the reduced pressure to afford 168 g of methallyl 2,5-dimethylphenyl ether as colorless oil.

reactant | 2,5-dimethylphenol | 122.2 g | CC1=C(C=C(C=C1)C)O | C8H10O
reactant | potassium carbonate | 83 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-2-methylpropene | 150 ml | ClCC(=C)C | C4H7Cl
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | methallyl 2,5-dimethylphenyl ether | 168 g | CC1=C(C=C(C=C1)C)OCC(C)=C | C12H16O
